US09376420B2
Step 1: 4-(2-chloro-phenyl)-2-oxo-3-butenoic acid
A solution of pyruvic acid (13.6 mL, 195.3 mmol) in ethanol (20.0 mL) was added to a 0.5 M sodium hydroxide solution (533.0 mL). The reaction mixture was stirred at room temperature for 5 minutes and then a solution of 2-chlorobenzaldehyde (20.0 mL, 177.6 mmol) in ethanol (155.0 mL) was slowly added thereto at room temperature for 1 hour. The reaction mixture was stirred at room temperature for 18 hours and then filtered. The resulting solid was washed with ethyl acetate, diluted with a 6N hydrochloric acid solution and then extracted with ethyl acetate. The extract was washed with distilled water and brine, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure to give 34.5 g of the titled compound as a yellow liquid.

reactant | pyruvic acid | 195.3 mmol, 13.6 mL | C(C(=O)C)(=O)O | C3H4O3
reactant | sodium hydroxide | 0.5 M, 533.0 mL | [OH-].[Na+]
reactant | 2-chlorobenzaldehyde | 177.6 mmol, 20.0 mL | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | ethanol | 20.0 mL | C(C)O | C2H6O
solvent | ethanol | 155.0 mL | C(C)O | C2H6O
product | 4-(2-chloro-phenyl)-2-oxo-3-butenoic acid | 34.5 g | ClC1=C(C=CC=C1)C=CC(C(=O)O)=O | C10H7ClO3
